US07700625B2
75B. 5-(4-Methyl-piperazin-1-yl)-2,3-dihydro-1H-isoindole dihydrochloride
5-(4-Methyl-piperazin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (247 mg, 0.78 mmol) was treated with 4M HCl in dioxane (4 mL, 4 mmol) for 24 hours. Concentration in vacuo afforded the title compound quantitatively, which was used directly in the coupling reaction. 1H NMR (DMSO-d6) 11.13 (1H, br.s), 9.99 (2H, br.s), 7.27 (1H, d), 7.02-7.00 (2H, m), 4.43-4.37 (4H, m), 3.82-3.75 (2H, m), 3.49-3.43 (2H, m), 3.15-3.10 (4H, m), 2.79-2.78 (3H, s), 1.52 (9H, s). MS: [M+H]+ 218.

reactant | 5-(4-Methyl-piperazin-1-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 0.78 mmol, 247 mg | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)N1CCN(CC1)C | C18H27N3O2
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 4 mmol, 4 mL | O1CCOCC1 | C4H8O2
product | 5-(4-Methyl-piperazin-1-yl)-2,3-dihydro-1H-isoindole dihydrochloride | Cl.Cl.CN1CCN(CC1)C=1C=C2CNCC2=CC1 | InChI=1S/C13H19N3.2ClH/c1-15-4-6-16(7-5-15)13-3-2-11-9-14-10-12(11)8-13;;/h2-3,8,14H,4-7,9-10H2,1H3;2*1H
